US05973190
Preparation of Ethyl 1-(p-chlorophenyl)-α-fluoro-β-hydroxy-α-(m-phenoxybenzyl)cyclopropanepropionate, 9:1 [R,S and S,R] to [R,R and S,S] ratio
Sodium borohydride (20 mg, 0.53 mmol) is added to a solution of ethyl 1-(p-chlorophenyl)-α-fluoro-β-oxo-α-(m-phenoxybenzyl)cyclopropanepropionate (214 mg, 0.46 mmol) in methanol at 0° C. The reaction mixture is stirred at 0° C. for 20 minutes, treated with water (2 mL), and concentrated in vacuo to obtain a residue. A solution of the residue in ethyl acetate is washed sequentially with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo to give the title product as a colorless gum (224 mg, 100%) which is found to have a 9:1 [R,S and S,R] to [R,R and S,S] ratio by NMR spectral analyses.

reactant | Sodium borohydride | 0.53 mmol, 20 mg | [BH4-].[Na+]
reactant | ethyl 1-(p-chlorophenyl)-α-fluoro-β-oxo-α-(m-phenoxybenzyl)cyclopropanepropionate | 0.46 mmol, 214 mg | ClC1=CC=C(C=C1)C1(CC1)C(C(C(=O)OCC)(CC1=CC(=CC=C1)OC1=CC=CC=C1)F)=O | C27H24ClFO4
reactant | water | 2 mL | O | H2O
solvent | methanol | CO | CH4O
product | Ethyl 1-(p-chlorophenyl)-α-fluoro-β-hydroxy-α-(m-phenoxybenzyl)cyclopropanepropionate | 224 mg, 100% | ClC1=CC=C(C=C1)C1(CC1)C(C(C(=O)OCC)(CC1=CC(=CC=C1)OC1=CC=CC=C1)F)O | C27H26ClFO4
